US07199120B2
1-[7-Chloro-2-(3-methyl-2-furyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-ol (12.29 g, 42.9 mmol) was dissolved in dichloromethane (200 mL) and manganese dioxide (112 g, 1.29 mol) was added. This slurry was stirred at room temperature for 2 hours. The manganese dioxide was removed by filtration and the filtrate was concentrated to a solid. This solid was purified by flash chromatography (dichloromethane) to give 1-[7-chloro-2-(3-methyl-2-furyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-one (7.53 g, 62%) as a white solid. 1H-NMR (CDCl3): δ 8.37 (d, 1H), 7.48 (m, 2H), 7.19 (d, 1H), 6.41 (d, 1H), 3.12 (s, 1H), 2.20 (s, 3H). MS m/z 285 (M+1).

reactant | 1-[7-Chloro-2-(3-methyl-2-furyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-ol | 42.9 mmol, 12.29 g | ClC1=CC=CC=2N1N=C(C2C(C#C)O)C=2OC=CC2C | C15H11ClN2O2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
catalyst | manganese dioxide | 1.29 mol, 112 g | [O-2].[O-2].[Mn+4]
product | 1-[7-chloro-2-(3-methyl-2-furyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-one | 7.53 g, 62% | ClC1=CC=CC=2N1N=C(C2C(C#C)=O)C=2OC=CC2C | C15H9ClN2O2
